US07915443B2
3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoic acid
A 50 ml THF solution of methyl 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate (228 mg, 0.41 mmol) and 0.5M NaOH (6.6 ml, 3.28 mmol) was stirred at room temperature for 3 hours. The reaction was quenched with acetic acid (0.188 ml, 3.28 mmol) and rotary evaporated to remove the THF solvent. The aqueous solution was partitioned between EtOAc and dilute HCl/brine mixture, the EtOAc layer washed with brine, dried with anhydrous Na2SO4 and rotary evaporated to white solid foam. The solid was combined with impure product from another lot (14 mg) and recrystallized from EtOAc/hexane to give the title compound as a white solid (147 mg, 62%).

reactant | methyl 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate | 0.41 mmol, 228 mg | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)OC)C=CC1)C | C29H25N5O5S
reactant | NaOH | 3.28 mmol, 0.5M, 6.6 ml | [OH-].[Na+]
reactant | acetic acid | 3.28 mmol, 0.188 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoic acid | 147 mg, 62% | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C(=O)O)C=CC1)C | C28H23N5O5S
